US08604029B2
To a solution of ethyl acetoacetate (0.8 g, 6.14 mmol) in ethanol (8 mL) was added acetamidine hydrochloride (0.6 g, 6.3 mmol) and stirred at r.t. for 10 min. A solution of sodium ethoxide [prepared from sodium (0.28 g, 12.3 mmol) and ethanol (3 mL)] was added dropwise and the whole mixture refluxed for 6 h. The reaction mass was cooled, acidified with acetic acid and concentrated under reduced pressure to give a residue which was washed twice with ethyl acetate to afford 2,6-dimethyl-2,5-dihydro-3H-pyrimidin-4-one (460 mg, 60%) as a solid.

reactant | ethyl acetoacetate | 6.14 mmol, 0.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetamidine hydrochloride | 6.3 mmol, 0.6 g | Cl.C(C)(=N)N
reactant | sodium ethoxide | 12.3 mmol, 3 mL, 0.28 g | [O-]CC.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2,6-dimethyl-2,5-dihydro-3H-pyrimidin-4-one | 460 mg, 60% | CC1N=C(CC(N1)=O)C | C6H10N2O
